US04600709
A suspension of 72.8 g (526 mmol) of freshly calcined potassium carbonate in 300 ml of 1,2-dimethoxyethane is stirred under nitrogen for 10 minutes using a high-speed stirrer and then, while stirring normally, 37.0 g (105.3 mmol) of 4-(3-acetamido-4-methoxyphenylsulphonyl)-5-methyl-1,2-benzenediol, 16.5 g (105.3 mmol) of dichloroacetic acid ethyl ester and 3 g of tetrabutylammonium bromide are added. The mixture is boiled under reflux, 300 ml of acetone are added, the whole is boiled under reflux for 3 more hours, a further 60 g of potassium carbonate and 16.5 g of dichloroacetic acid ethyl ester are added, and the whole is boiled under reflux for 9 more hours. The reaction mixture is poured into water and acidified to pH 1-2 with hydrochloric acid. Some of the solvent is evaporated off in vacuo and the aqueous phase remaining is extracted with ethyl acetate. The combined organic phases are washed with water and saturated sodium chloride solution, dried over sodium sulphate and concentrated by evaporation in a rotary evaporator. The residue is recrystallised four times from acetonitrile, yielding 5-(3-acetamido-4-methoxyphenylsulphonyl)-6-methyl-1,3-benzodioxole-2-carboxylic acid in the form of white crystals having a melting point of 230° (sintering at 150°).

reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | 4-(3-acetamido-4-methoxyphenylsulphonyl)-5-methyl-1,2-benzenediol | 105.3 mmol, 37.0 g | C(C)(=O)NC=1C=C(C=CC1OC)S(=O)(=O)C=1C=C(C(=CC1C)O)O | C16H17NO6S
reactant | dichloroacetic acid ethyl ester | 105.3 mmol, 16.5 g | C(C)OC(C(Cl)Cl)=O | C4H6Cl2O2
reactant | potassium carbonate | 60 g | C([O-])([O-])=O.[K+].[K+]
reactant | dichloroacetic acid ethyl ester | 16.5 g | C(C)OC(C(Cl)Cl)=O | C4H6Cl2O2
reactant | hydrochloric acid | Cl | ClH
solvent | 1,2-dimethoxyethane | 300 ml | COCCOC | C4H10O2
catalyst | tetrabutylammonium bromide | 3 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | O | H2O
solvent | acetone | 300 ml | CC(=O)C | C3H6O
product | 5-(3-acetamido-4-methoxyphenylsulphonyl)-6-methyl-1,3-benzodioxole-2-carboxylic acid | C(C)(=O)NC=1C=C(C=CC1OC)S(=O)(=O)C1=CC2=C(OC(O2)C(=O)O)C=C1C | C18H17NO8S
